US04093812
React 3.1 g of 1-methoxycarbonyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehyde-ethyleneacetal in 50 ml of dioxan and 25 ml of water with 1.73 g of piperidine for 20 minutes at room temperature (20° C) and then proceed according to the method of part (a) above to obtain 3-(5-nitro-2-furyl)-1H-pyrazole-4-carboxaldehyde with a melting point of 185° to 187° C.

reactant | 1-methoxycarbonyl-3-(5-nitro-2-furyl)pyrazole-4-carboxaldehyde-ethyleneacetal | 3.1 g | C1COC(C=2C(=NN(C2)C(=O)OC)C=2OC(=CC2)[N+](=O)[O-])O1 | C12H11N3O7
reactant | piperidine | 1.73 g | N1CCCCC1 | C5H11N
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 25 ml | O | H2O
product | 3-(5-nitro-2-furyl)-1H-pyrazole-4-carboxaldehyde | [N+](=O)([O-])C1=CC=C(O1)C1=NNC=C1C=O | C8H5N3O4
